US09079922B2
4.1. 4-[(R)-2-oxo-3-(3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-6-yl)-oxazolidin-5-ylmethyl]-piperazine-1-carboxylic acid tert-butyl ester
A solution of 6-((S)-5-iodomethyl-2-oxooxazolidin-3-yl)-4H-benzo[1,4]thiazin-3-one (prepared according to WO 2008/126034; 1.0 g) and Boc-piperazine (1.43 g) in DMF (10 ml) was stirred overnight at rt and 2 h at 60° C. The reaction mixture was allowed to reach rt, diluted with water and extracted with EA (2×). The combined org. layers were washed with water and brine, dried over MgSO4, filtered and evaporated under reduced pressure, affording after stirring the residue in TBME a colourless solid.

reactant | 6-((S)-5-iodomethyl-2-oxooxazolidin-3-yl)-4H-benzo[1,4]thiazin-3-one | 1.0 g | IC[C@@H]1CN(C(O1)=O)C=1C=CC2=C(NC(CS2)=O)C1 | C12H11IN2O3S
reactant | Boc-piperazine | 1.43 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | TBME | CC(C)(C)OC | C5H12O
product | 4-[(R)-2-oxo-3-(3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-6-yl)-oxazolidin-5-ylmethyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C[C@@H]1CN(C(O1)=O)C=1C=CC2=C(NC(CS2)=O)C1 | C21H28N4O5S
